US08981084B2
6-(4-(3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)-1,4-diazepan-1-yl)nicotinonitrile
This compound was synthesized from 6-(1,4-diazepan-1-yl)nicotinonitrile and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (80 mg, yield 34%). 1H NMR (400 MHz, MeOD) δ 8.20-8.18 (m, 1H), 8.02 (m, 1H), 7.69-7.65 (m, 1H), 7.60 (t, J=7.7 Hz, 1H), 7.55 (m, 1H), 7.38 (d, J=7.8 Hz, 1H), 6.78-6.76 (m, 1H), 4.01 (m, 1H), 3.93-3.90 (m, 2H), 3.83-3.79 (m, 2H), 3.75 (m, 2H), 3.48-3.46 (m, 1H), 2.07-2.02 (m, 2H). MS (ESI) m/z: Calculated for C21H17F3N6O2: 442.14. found: 443.2 (M+H)+

reactant | 6-(1,4-diazepan-1-yl)nicotinonitrile | N1(CCNCCC1)C1=NC=C(C#N)C=C1 | C11H14N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-(4-(3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)-1,4-diazepan-1-yl)nicotinonitrile | yield 34% | FC(C1=NC(=NO1)C=1C=C(C(=O)N2CCN(CCC2)C2=NC=C(C#N)C=C2)C=CC1)(F)F | C21H17F3N6O2
